US06828460B2
3-(2,4-Dimethoxymethoxyphenyl)-2-cyclohexen-1-one Oxime
3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one (200 mg), hydroxylamine hydrochloride (72 mg) and triethylamine (0.14 ml) were heated under reflux in ethanol (10 ml). After 3 hr, the cooled reaction mixture was partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate and evaporated in vacuo to furnish the title compound as an oil (206 mg, 99%). m/z (ES+) 308 (M+H)+.

reactant | 3-[2,4-Bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one | 200 mg | COCOC1=C(C=CC(=C1)OCOC)C1=CC(CCC1)=O | C16H20O5
reactant | hydroxylamine hydrochloride | 72 mg | Cl.NO
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(2,4-Dimethoxymethoxyphenyl)-2-cyclohexen-1-one Oxime | 206 mg, 99% | COCOC1=C(C=CC(=C1)OCOC)C1=CC(CCC1)=NO | C16H21NO5
